US09029544B2
(1) 4-hydroxy-7,7-dimethyl-2′,3′,5′,6′,7,8-hexahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3,9(6H)-dione
Obtained by starting from 2-oxo-1,8-dioxaspiro[4.5]dec-3-ene-3-carboxylate and 8-aminospiro[3.5]non-7-en-6-one.

reactant | 2-oxo-1,8-dioxaspiro[4.5]dec-3-ene-3-carboxylate | O=C1OC2(C=C1C(=O)[O-])CCOCC2
reactant | 8-aminospiro[3.5]non-7-en-6-one | NC1=CC(CC2(CCC2)C1)=O | C9H13NO
product | 4-hydroxy-7,7-dimethyl-2′,3′,5′,6′,7,8-hexahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3,9(6H)-dione | OC1=NC=2CC(CC(C2C2=C1C(OC21CCOCC1)=O)=O)(C)C | C17H19NO5
